US07585869B2
(3-Methoxy-phenyl)-{4-[2-methyl-4-(6-morpholin-4-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-piperidin-1-yl}-methanone:
The title compound was prepared from [3-Methyl-4-(piperidin-4-yloxy)-phenyl]-(6-morpholin-4-yl-pyrido[3,4-d]pyrimidin-4-yl)-amine and 3-methoxy benzoylchloride by a procedure analogous to the synthesis of Cyclopentyl-{4-[4-(6-fluoro-pyrido[3,4-d]pyrimidin-4-ylamino)-2-methyl-phenoxy]-piperidin-1-yl}-methanone. LRMS: 555.2 (MH+). 1H NMR (DMSO-d6, 400 MHz): δ 9.57 (s, 1H), δ 8.79 (s, 1H), δ 8.32 (s, 1H), δ 7.47-7.53 (m, 3H), δ 7.32 (t, J=7.68, 1H), δ 7.31 (d, J=8.72, 1H), δ 6.93-6.99 (m, 3H), δ 4.62 (br. s, 1H), δ 3.76 (br. s, 1H), δ 3.52-3.54 (m, 6H), δ 3.75 (m, 6H), 3.302 (s, 3H), δ 2.18 (s, 3H), δ 1.97 (br. s, 1H), δ 1.90 (br. s, 1H), δ 1.66 (br. s, 1H).

reactant | [3-Methyl-4-(piperidin-4-yloxy)-phenyl]-(6-morpholin-4-yl-pyrido[3,4-d]pyrimidin-4-yl)-amine | CC=1C=C(C=CC1OC1CCNCC1)NC=1C2=C(N=CN1)C=NC(=C2)N2CCOCC2 | C23H28N6O2
reactant | 3-methoxy benzoylchloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | Cyclopentyl-{4-[4-(6-fluoro-pyrido[3,4-d]pyrimidin-4-ylamino)-2-methyl-phenoxy]-piperidin-1-yl}-methanone | C1(CCCC1)C(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)F)C | C25H28FN5O2
product | (3-Methoxy-phenyl)-{4-[2-methyl-4-(6-morpholin-4-yl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenoxy]-piperidin-1-yl}-methanone | COC=1C=C(C=CC1)C(=O)N1CCC(CC1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)N2CCOCC2)C | C31H34N6O4
